US07582803B2
(S)-3-(4-(2-cyclopentylethoxy)phenyl)hex-4-ynoic acid (70).
A mixture of phenol (0.18 mmol), 6-halomethyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydro-naphthalene (0.2 mmol) or another benzyl chloride or benzyl bromide compound, and cesium carbonate (0.27 mmol) in DMF (2 mL), was/is stirred at room temperature overnight. The reaction mixture was/is diluted with water and extracted into DCM. The separated DCM layer was/is washed with water. The residue obtained after concentration was/is dissolved into THF and MeOH (1 mL each) and treated with 2 M NaOH solution (0.45 mL, 0.9 mmol). The resulting solution was/is further stirred for 16-48 hours at room temperature. The reaction mixture was/is concentrated, and the residue was/is dissolved in a mixture of DMF/ACN (1:4, 5 mL) containing TFA (67 μL, 0.9 mmol). This solution was/is filtered and purified by preparatory HPLC. The solvent was/is evaporated by freeze-drying to provide the desired product generally as a white amorphous solid.

reactant | phenol | 0.18 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 0.27 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 0.9 mmol, 2 M, 0.45 mL | [OH-].[Na+]
reactant | TFA | 0.9 mmol, 67 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-3-(4-(2-cyclopentylethoxy)phenyl)hex-4-ynoic acid | C1(CCCC1)CCOC1=CC=C(C=C1)[C@H](CC(=O)O)C#CC | C19H24O3
